US05612377
Using the general method of Compound 42 Part B, 2-bromopentane (2.7 mL, 21.7 mmole) was reacted with 1-benzyloxy-3-phenylurea (4.9 g, 20.1 mmole) to provide 4.26 g of 1-benzyloxy-1-(1-methylbutyl)-3-phenylurea as a yellow oil.

reactant | 2-bromopentane | 21.7 mmole, 2.7 mL | BrC(C)CCC | C5H11Br
reactant | 1-benzyloxy-3-phenylurea | 20.1 mmole, 4.9 g | C(C1=CC=CC=C1)ONC(=O)NC1=CC=CC=C1 | C14H14N2O2
product | 1-benzyloxy-1-(1-methylbutyl)-3-phenylurea | 4.26 g | C(C1=CC=CC=C1)ON(C(=O)NC1=CC=CC=C1)C(CCC)C | C19H24N2O2
